Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
___ 
 
Major Surgical or Invasive Procedure:
ERCP ___

 
History of Present Illness:
Patient is a ___ gentleman who is 2 months status post a 
deceased donor by cardiac death liver transplant for alcohol and
genotype 3 hepatitis C cirrhosis complicated by 
diuretic-refractory ascites and malnutrition presenting for ___ 
and ___ concerning for transplant rejection s/p biopsy 
by ___ yesterday. Patient has chronic genotype 3 hepatitis C and 
appears to have cleared the virus. He had completed 17 out of 24 
weeks of treatment withsofosbuvir and ribavirin at the time of 
transplant.  His viral
load was negative at the time of transplant and negative on
___. 

Patient's labs on ___ showed creat 1.9 (1.7, 1.8), Alk PHos 
361 (213, 119), AST 145 (98, 26), ALT 200 (114, 41), cyclo level 
230 on 250mg bid. An ultrasound showed evidence of hepatic 
arterial stenosis at the hepatic artery anastomosis with kinking 
noted.  There was a pressure gradient, but this was not amenable 
to stenting and he was recently started on 325 mg of aspirin. An 
urgent transjugular liver biopsy done yesterday by ___. Patient 
was a direct admit for IVF for ___ and to await biopsy results. 

On the floor, patient reports he is feeling very well. His 
appetite has been much improved from before, and he is 
tolerating PO well. He denies any side effects to medications, 
and he denies fevers, chills, nausea, vomiting, abdominal pain, 
diarrhea, constipation.

 
Past Medical History:
- HCV mediated cirrhosis, Child's C 12, complicated in the past 
by ascites and coagulopathy  
- Genotype 3 hepatitis C, currently in the midst of a 24-week  
course of sofosbuvir and ribavirin.  
- Moderate malnutrition 
- Heart murmur
- s/p liver transplant ___
- Inguinal hernia repairs in the 1970s.  
- Tonsillectomy in the ___.  

 
Social History:
___
Family History:
No family history of liver disease or malignancy other than skin 
cancer in mother and father  

 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:  
Vitals:  97.6;  143/82;  67;  18;  100/RA
General: Alert, oriented, no acute distress, lying comfortably 
in bed  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII grossly intact, moving all extremities 

PHYSICIAL EXAM ON DISCHARGE:
Vitals:  97.9;  134/80;  109;  18;  97/RA
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
 
Pertinent Results:
LABS ON ADMISSION:
___ 06:55PM   GLUCOSE-88 UREA N-27* CREAT-1.6* SODIUM-137 
POTASSIUM-4.4 CHLORIDE-101 TOTAL CO2-24 ANION GAP-16
___ 06:55PM   ALT(SGPT)-237* AST(SGOT)-133* ALK PHOS-296* 
TOT BILI-0.8
___ 06:55PM   WBC-3.2* RBC-2.85* HGB-9.6* HCT-26.9* MCV-95 
MCH-33.6* MCHC-35.5* RDW-16.6*
___ 06:55PM   PLT COUNT-231
___ 06:55PM   ___ PTT-33.3 ___

IMAGING/PATH:
==========================
___  Liver, allograft, needle core biopsy:
1. Focal mild bile duct proliferation with associated 
neutrophils, recommend evaluation to rule out biliary 
obstruction, ischemia or sepsis.
2. Scattered lobular neutrophilic microabscesses. CMV 
immunostain is negative.
3. No features of rejection are seen.
4. No steatosis seen.
5. No definite features of recurrence of viral hepatitis C seen.
6. Trichrome stain shows no increased fibrosis.
7. Iron stain shows no increased fibrosis.

___ MRCP
IMPRESSION: 
1. Transplanted liver with patent arterial and venous 
anastomoses.  Apparent narrowing at the biliary anastomosis is 
may reflect mismatched duct diameters between the donor and 
recipient. 
2. Unchanged prominence of the intrahepatic biliary ducts.  No 
new dilation. Focal arterial hyper enhancement and restricted 
diffusion around a dilated biliary duct in segment VI is most 
compatible with a focus of mild cholangitis.  No fluid 
collection. 
3. Interval decrease in size of a right upper quadrant 
intramuscular hematoma. 

ERCP ___
IMPRESSION:
The scout film was normal. 
The bile duct was deeply cannulated with the sphincterotome. 
Contrast was injected and there was flow through the ducts. 
Contrast extended to the entire biliary tree. 
There was a short stricture at the CHD in keeping with an 
anastomotic stricture vs duct mismatch. 
The left and right hepatic ducts and all intrahepatic branches 
were mildly dilated. 
A biliary sphincterotomy was made with a sphincterotome. There 
was no post-sphincterotomy bleeding. 
A ___ x 8 cm plastic stent was placed into the main duct. 
Excellent bile and contrast drainage was seen endoscopically and 
fluoroscopically.

LABS ON DISCHARGE:
==========================
___ 07:42AM BLOOD WBC-1.8* RBC-2.58* Hgb-8.9* Hct-24.1* 
MCV-93 MCH-34.3* MCHC-36.7* RDW-15.9* Plt ___
___ 07:42AM BLOOD Glucose-100 UreaN-13 Creat-1.4* Na-141 
K-4.3 Cl-106 HCO3-25 AnGap-14
___ 07:42AM BLOOD ALT-55* AST-19 AlkPhos-162* TotBili-0.7
___ 07:42AM BLOOD Calcium-9.3 Phos-3.7 Mg-1.3*
___ 07:42AM BLOOD Cyclspr-146
___ 05:45AM BLOOD Cyclspr-184
___ 07:20AM BLOOD Cyclspr-266
 
Brief Hospital Course:
Patient is a ___ gentleman who is 2 months status post a 
deceased donor by cardiac death liver transplant for alcohol and 
genotype 3 hepatitis C cirrhosis complicated by 
diuretic-refractory ascites and malnutrition presenting for ___ 
and ___ concerning for transplant rejection s/p biopsy 
by ___ on ___ and ERCP on ___ with biliary sphincterotomy and 
stent placed in the main duct. 

ACUTE ISSUES:
========================== 
# ___ - AST 133/ALT 237 was on admission, increased 
from baseline. Patient recently underwent liver transplant 2 
months ago and was on cyclosporin and mycophenolate for 
immunosuppression. His liver ultrasound demonstrated evidence of 
hepatic arterial stenosis at the hepatic artery anastomosis with 
kinking noted, concerning for transplant rejection. The day 
prior to admission, he underwent urgent biopsy by ___ on ___, 
which showed focal mild bile duct proliferation with associated 
neutrophils concerning biliary obstruction, ischemia or sepsis. 
No evidence of transplant rejection, CMV (viral load negative), 
or active hepatitis C was seen on biopsy. MRCP was then 
performed and showed patent transplanted vasculature. Possible 
cholecystitis was also noted, however patient showed no signs of 
infection and had no abdominal pain during the admission. 
Patient then underwent ERCP on ___ with biliary sphincterotomy 
and stent placement in the main biliary duct. He will need to 
undergo another ERCP in ___ weeks for stent removal. 
___ trended down during this admission. His 
cyclosporin 250mg q12h and mycophenolate 720mg BID were 
continued, and doses were not adjusted as biopsy did not show 
evidence of rejection. Patient was also started on 5 day course 
of cipro post-ERCP for prophylaxis. He was tolerating PO well 
the next day without abdominal pain and was discharged.

# ___ on CKD - Patient was admitted for creatinine of 1.9 from 
baseline of 1.0-1.5. Improved to baseline after IVF. 
 
CHRONIC ISSUES:
========================
# HTN: Continued amlodipine 5mg, metoprolol 25mg
# DM: Decreased glargine to 6u as patient's glucose was 
low-normal during this admission
# GERD: Continued omeprazole 20mg
# Depression: Continued sertraline 100mg 
# Prophylaxis - continued Bactrim. Valganciclovir dose was 
decreased to 450mg from 900mg due to renal function. 

TRANSITIONAL ISSUES:
==========================
- Patient will need weekly cyclosporine levels and LFTs. 
Cyclosporine level on ___ was 146
- Patient will follow-up with Transplant Hepatology on ___.
- Repeat ERCP in ___ months for stent pull and re-evaluation. 
- Continue with antibiotics - Ciprofloxacin 500mg BID x 5 days 
ending on ___. 
- Home glargine was reduced to 6u as patient's blood glucose was 
90-100s during stay on 8u. Please continue to monitor and 
adjust. 
- Patient will need 24 hour urine collection for creatinine 
clearance in ___ weeks. 
- Patients valgancyclovir decreased to 450mg daily from 900mg 
given renal function and thought to be contributing to 
leukopenia

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
2. CycloSPORINE (Neoral) MODIFIED 250 mg PO Q12H 
3. FoLIC Acid 3 mg PO DAILY 
4. Glargine 8 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
5. Metoprolol Tartrate 25 mg PO BID 
6. Mycophenolate Sodium ___ 720 mg PO BID 
7. Omeprazole 20 mg PO DAILY 
8. Sertraline 200 mg PO DAILY 
9. Sodium Polystyrene Sulfonate 30 gm PO DAILY:PRN high 
potassium 
10. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
11. ValGANCIclovir 900 mg PO Q24H 
12. Aspirin 325 mg PO QPM 
13. Docusate Sodium 100 mg PO BID:PRN constipation 
14. Vitamin D ___ UNIT PO DAILY 
15. Multivitamins 1 TAB PO DAILY 
16. Senna 8.6 mg PO BID:PRN constipation 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Aspirin 325 mg PO QPM 
3. Docusate Sodium 100 mg PO BID:PRN constipation 
4. FoLIC Acid 3 mg PO DAILY 
5. Metoprolol Tartrate 25 mg PO BID 
6. Multivitamins 1 TAB PO DAILY 
7. Mycophenolate Sodium ___ 720 mg PO BID 
8. Omeprazole 20 mg PO DAILY 
9. Senna 8.6 mg PO BID:PRN constipation 
10. Sertraline 200 mg PO DAILY 
11. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
12. Vitamin D ___ UNIT PO DAILY 
13. Sodium Polystyrene Sulfonate 30 gm PO DAILY:PRN high 
potassium 
14. Ciprofloxacin HCl 500 mg PO Q12H Duration: 5 Days 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*9 Tablet Refills:*0
15. CycloSPORINE (Neoral) MODIFIED 250 mg PO Q12H 
16. ValGANCIclovir 450 mg PO Q24H 
RX *valganciclovir [Valcyte] 450 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0
17. Glargine 6 Units Breakfast

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
___ 

Secondary diagnoses:
Hepatitis C s/p deceased donor liver transplant
HTN
DM
GERD
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure to participate in your care at ___. You were 
admitted at the request of your outpatient transplant doctor who 
noticed some of your liver enzymes were elevated and that your 
creatinine was slightly elevated. We gave you some fluids and 
your kidney function returned to normal. Your liver biopsy did 
not show evidence of transplant rejection. You then underwent a 
MRCP, which showed that the blood vessels in your liver were 
patent. You then got underwent a ERCP and had a stent placed in 
the main duct of your liver. You will need to have repeat ERCP 
to have the stent removed. 

The ERCP team recommended that you take ciprofloxacin, an 
antibiotic, for five days.  You should take this until ___. 
You should also follow-up with your doctors as listed below.

We wish you all the best!
Your ___ team
 
Followup Instructions:
___